US07825120B2
(S)-N,N-dimethyl-4-(3-(1-(3-(6-methylpyridin-3-yl)ureido)ethyl)benzyl)piperazine-1-sulfonamide was synthesized in a manner analogous to 1-(2-chloro-5-((4-(methylsulfonyl)piperazin-1-yl)methyl)benzyl)-3-(6-methylpyridin-3-yl)urea in Example 1 except that N,N-dimethylsulfamoyl chloride was used as the electrophile instead of methanesulfonyl chloride.

reactant | 1-(2-chloro-5-((4-(methylsulfonyl)piperazin-1-yl)methyl)benzyl)-3-(6-methylpyridin-3-yl)urea | ClC1=C(CNC(=O)NC=2C=NC(=CC2)C)C=C(C=C1)CN1CCN(CC1)S(=O)(=O)C | C20H26ClN5O3S
reactant | N,N-dimethylsulfamoyl chloride | CN(S(=O)(=O)Cl)C | C2H6ClNO2S
reactant | methanesulfonyl chloride | CS(=O)(=O)Cl | CH3ClO2S
product | (S)-N,N-dimethyl-4-(3-(1-(3-(6-methylpyridin-3-yl)ureido)ethyl)benzyl)piperazine-1-sulfonamide | CN(S(=O)(=O)N1CCN(CC1)CC1=CC(=CC=C1)[C@H](C)NC(=O)NC=1C=NC(=CC1)C)C | C22H32N6O3S
